US09126945B2
4-Chloro-3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid
The preparation was carried out analogously to the preparation of 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid using ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate and 5.0 eq of sodium hydroxide in methanol.

reactant | 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid | ClC=1C(=NN(C1C(=O)O)C)C1(CC1)Cl | C8H8Cl2N2O2
reactant | ethyl 3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | FC1(CC1)C1=NN(C(=C1)C(=O)OCC)C | C10H13FN2O2
reactant | sodium hydroxide | 5.0 eq | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Chloro-3-(1-fluorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid | ClC=1C(=NN(C1C(=O)O)C)C1(CC1)F | C8H8ClFN2O2
